US06500828B1
a) 6-Chloro-3-(2,6-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4.3-b]pyridazine
A mixture of 3,6-dichloro-4-(1,1-dimethylethyl)pyridazine (2 g, 9.75 mmol), 2,6-difluorobenzoic acid hydrazide (2.52 g, 14.6 mmol) (WO 95/24403) and triethylamine hydrochloride (2.01 g, 14.6 mmol) in 1,4-dioxane (10 ml) was stirred and heated at reflux for 3.5 days. Upon cooling, the volatiles were removed in vacuo and the residue was triturated with dichloromethane. Any undissolved solid was removed by filtration. The residue was purified by chromatography on silica gel eluting with 0%→25% ethyl acetate in dichloromethane to give the required product (0.42 g). Data for the title compound: 1H NMR (250 MHz, CDCl3) δ1.57 (9H, s), 7.09-7.16 (2H, m), 7.51-7.63 (1H, m), 8.19 (1H, s); MS (ES30) m/e 323 (MH+.

reactant | 3,6-dichloro-4-(1,1-dimethylethyl)pyridazine | 9.75 mmol, 2 g | ClC=1N=NC(=CC1C(C)(C)C)Cl | C8H10Cl2N2
reactant | 2,6-difluorobenzoic acid hydrazide | 14.6 mmol, 2.52 g | FC1=C(C(=O)NN)C(=CC=C1)F | C7H6F2N2O
reactant | triethylamine hydrochloride | 14.6 mmol, 2.01 g | Cl.C(C)N(CC)CC
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6-Chloro-3-(2,6-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4.3-b]pyridazine | 0.42 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2F)F)C(C)(C)C | C15H13ClF2N4
